US06242474B1
Production of (E)-4-methyl-2-(4-phenylphenyl)ethenylpyridine
A mixture of 4-phenylbenzaldehyde (6.45 g), 2,4-lutidine (7.59 g), and acetic anhydride (10 ml) was heated in a bath at 150° C. for 12 hours and then heated under reflux for 12 hours. The reaction mixture was concentrated to dryness under reduced pressure, and the resulting residue was purified by silica-gel column chromatography (eluent, hexane:ethyl acetate=9:1 to 5:1) to give 4.35 g of yellow solid material of (E)-4-methyl-2-(4-phenylphenyl)ethenylpyridine.

reactant | 4-phenylbenzaldehyde | 6.45 g | C1(=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O
reactant | 2,4-lutidine | 7.59 g | N1=C(C=C(C=C1)C)C | C7H9N
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-4-methyl-2-(4-phenylphenyl)ethenylpyridine | 4.35 g | CC1=CC(=NC=C1)\C=C\C1=CC=C(C=C1)C1=CC=CC=C1 | C20H17N
